US05064826
16.7 g (0.1 mole) of 5-amino-3-piperidino-1H-1,2,4-triazole are dissolved in 10 ml of acetic acid and 18.8 g (0.1 mole) of ethyl 3-oxo-3,4,5,6-tetrahydro-2H-thiopyrane-2-carboxylate are added, then the reaction mixture is boiled for 10 minutes. The thick crystal mass thus obtained is diluted with 100 ml of water, the precipitated product is filtered off, washed with i-propanol and recrystallized from dimethylformamide. Thus 23.3 g (82.2%) of 2-piperidino-5,7,8,9-tetrahydrothiopyrano[3,2-d]-1,2,4-triazolo[1,5-a]pyrimidine-5(10H)-one are obtained with a melting point above 350° C.

reactant | 5-amino-3-piperidino-1H-1,2,4-triazole | 0.1 mole, 16.7 g | NC1=NC(=NN1)N1CCCCC1 | C7H13N5
reactant | ethyl 3-oxo-3,4,5,6-tetrahydro-2H-thiopyrane-2-carboxylate | 0.1 mole, 18.8 g | O=C1C(SCCC1)C(=O)OCC | C8H12O3S
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
solvent | water | 100 ml | O | H2O
product | 2-piperidino-5,7,8,9-tetrahydrothiopyrano[3,2-d]-1,2,4-triazolo[1,5-a]pyrimidine-5(10H)-one | 23.3 g, 82.2% | N1(CCCCC1)C1=NN2C(NC3=C(C2=O)SCCC3)=N1 | C13H17N5OS
